US04659708
4-methyl-8-quinolinamine
A mixture of 2.6 g of crude 4-cyclohexyl-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide in 100 ml of tetrahydrofuran was filtered to remove 0.3 g of white insoluble material. The filtrate, now containing 2.3 g (0.005 mole) of starting material was added dropwise to a cold (-20°) mixture of aluminum chloride and lithium aluminum hydride which had been prepared by adding a cold (-40°) slurry of 1.1 g (0.008 mole) of aluminum chloride in 75 ml of tetrahydrofuran to an equally cold suspension of 0.9 g (0.02 mole) of lithium aluminum hydride in 50 ml of tetrahydrofuran and allowing the mixture to warm to -20°. The reaction mixture was stirred at -20° to 0° for 3 hr and allowed to stand overnight at 4°. To the stirred mixture was added 3.8 ml of 30% sodium hydroxide and enough water to clarify the supernatant, which was then decanted. The residual sticky precipitate was washed with tetrahydrofuran. The supernatant and wash were combined, concentrated in vacuo to remove most of the tetrahydrofuran and taken up in water and ether. The ether layer was washed, dried and concentrated, leaving 2 g of crude product. Recrystallization from 2-propanol afforded 0.9 g (43%) of the purified material, mp 68°-70°.

reactant | 4-cyclohexyl-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide | 2.6 g | C1(CCCCC1)N1CCN(CC1)CCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C27H40N4O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 0.008 mole, 1.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.02 mole, 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 3.8 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-methyl-8-quinolinamine | 0.9 g, 43% | CC1=CC=NC2=C(C=CC=C12)N | C10H10N2
